US07910592B2
To a solution of (2-fluoro-4-methoxyphenyl)acetic acid (500 mg, 2.72 mmol) in toluene (20 mL) was added MeOH (3 mL) and TMS diazomethane (2.04 mL of a 2M solution in hexanes, 4.08 mmol). After 15 min, the reaction was quenched by the addition of HOAc (250 μL). The reaction was diluted with EtOAc (100 mL) and washed with saturated NaHCO3 (2×25 mL) and brine (25 mL). The organic layer was dried (Na2SO4), filtered and concentrated. Purification of the residue by flash chromatography (0 to 25% EtOAc/hexanes) afforded methyl (2-fluoro-4-methoxyphenyl)acetate. 1H NMR (500 MHz, CDCl3): δ 7.15 (t, J=8.6 Hz, 1H), 6.62-6.68 (m, 2H), 3.78 (s, 3H), 3.70 (s, 3H), 3.60 (s, 2H).

reactant | (2-fluoro-4-methoxyphenyl)acetic acid | 2.72 mmol, 500 mg | FC1=C(C=CC(=C1)OC)CC(=O)O | C9H9FO3
reactant | MeOH | 3 mL | CO | CH4O
reactant | TMS diazomethane | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | methyl (2-fluoro-4-methoxyphenyl)acetate | FC1=C(C=CC(=C1)OC)CC(=O)OC | C10H11FO3
